US06211199B1
107.1 Synthesis of 1-(3,4,5-trimethoxybenzyl)-2-oxopyrrolidine
Combine 2-pyrrolidinone (0.39 g, 4.62 mmol) and tetrahydrofuran (5 mL). Cool to −78° C. using a dry-ice/acetone bath. Add a solution of sec-butyl lithium (4.3 mL, 1.3 M in hexane, 5.55 mmol). After 15 minutes, add a solution of 3,4,5-trimethoxybenzyl chloride (1.00 g, 4.62 mmol) in tetrahydrofuran (5 mL). After the addition of 3,4,5-trimethoxybenzyl chloride is complete, heat to reflux. After 12 hours, cool the reaction mixture and partition between water and ethyl acetate. Separate the aqueous layer and extract 4 times with ethyl acetate. Dry the combined organic layers over Na2SO4, filter, and concentrate in vacuo to give the title compound.

reactant | 2-pyrrolidinone | 4.62 mmol, 0.39 g | N1C(CCC1)=O | C4H7NO
reactant | sec-butyl lithium | 5.55 mmol, 1.3 M, 4.3 mL | C(C)(CC)[Li]
reactant | 3,4,5-trimethoxybenzyl chloride | 4.62 mmol, 1.00 g | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-(3,4,5-trimethoxybenzyl)-2-oxopyrrolidine | COC=1C=C(CN2C(CCC2)=O)C=C(C1OC)OC | C14H19NO4
